US06136798
Step C: Preparation of [1S-[1R*[R*(R*)]]]-Phosphoric acid mono-(4-{2-acetylamino-2-[1-(1-dihexylcarbamoyl-ethylcarbamoyl)-2-methyl-propylcarbamoyl]-ethyl}-phenyl) ester [Ac-Tyr(PO3H2)-Val-Ala-N(C6H13)2 ]
The title compound was prepared by starting with 200 mg of Ac-Tyr(Bzl)-Val-Ala-N(C6H13)2 which was reduced with hydrogen under high pressure with 20% Pd/C catalyst in methanol. The catalyst was filtered. The solution was concentrated under reduced pressure, dissolved, and lyophilized (15B mg). The peptide was phosphotitylated with 1H-tetrazole (79.0 mg, 4.0 eq.) and di-t-butyl diethylphosphoramidite (312 mL, 4.0 eq.) in DCM (50 mL) while stirring at room temperature for 1 hour. The compound was then treated with 2.0 mL 70% aqueous t-butyl-hydroperoxide to the solution for 1 hour. The solution was then concentrated under reduced pressure. The peptide was deprotected with 95% TFA/5% water (20 mL) while stirring for 1 hour. The solution was then concentrated under reduced pressure and purified by preparative RP-HPLC using a gradient of 20% to 50% B over 120 minutes. The appropriate fractions were combined and lyophilized yielding Ac-Tyr(PO3H2)-Val-Ala-N(C6H13)2 (11.0 mg, MS=639.3, Calculated=640.43).

reactant | Ac-Tyr(Bzl)-Val-Ala-N(C6H13)2 | 200 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N(CCCCCC)CCCCCC)C(=O)C | C38H58N4O5
reactant | hydrogen | [H][H] | H2
reactant | 1H-tetrazole | 79.0 mg, 4.0 eq. | N1N=NN=C1 | CH2N4
reactant | di-t-butyl diethylphosphoramidite | 312 mL, 4.0 eq. | C(C)N(P(OC(C)(C)C)OC(C)(C)C)CC | C12H28NO2P
reactant | t-butyl-hydroperoxide | 2.0 mL | C(C)(C)(C)OO | C4H10O2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Ac-Tyr(PO3H2)-Val-Ala-N(C6H13)2 | 11.0 mg | N([C@@H](CC1=CC=C(C=C1)OP(=O)(O)O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N(CCCCCC)CCCCCC)C(=O)C | C31H53N4O8P
